US08859535B2
4-[(4-Bromo-phenyl)-hydroxy-methyl]-piperidine-1-carboxylic acid benzyl ester
A solution of 1-bromo-4-iodobenzene (17.16 g, 60.7 mmol) in THF (130 ml) was immersed in a dry ice-methanol bath. EtMgBr 3M in diethylether (27.0 ml, 81 mmol) was added slowly via syringe at −44° C. to −40° C. (exothermic reaction, grey precipitation!). The reaction mixture was allowed to warm up to −10° C. and after 2 hrs 1-bromo-4-iodobenzene was gone. Then a solution of benzyl 4-formylpiperidine-1-carboxylate (10 g, 40.4 mmol) in THF (30 ml) was added slowly below −65° C. The reaction was allowed to warm up to room temperature and stirred for 14 hrs. The reaction mixture was quenched with saturated aqueous ammonia chloride solution and diluted with ethyl acetate. The organic phase was separated and washed with brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to obtain the crude material which was purified by automated column chromatography (normal phase, ethyl acetate/n-heptane) to obtain the title compound as colorless oil.

reactant | 1-bromo-4-iodobenzene | 60.7 mmol, 17.16 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | EtMgBr | 3M | CC[Mg+].[Br-]
reactant | diethylether | 81 mmol, 27.0 ml | C(C)OCC | C4H10O
reactant | benzyl 4-formylpiperidine-1-carboxylate | 40.4 mmol, 10 g | C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-[(4-Bromo-phenyl)-hydroxy-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(O)C1=CC=C(C=C1)Br | C20H22BrNO3
